US08957093B2
Step 2: (R)-4′-((5-((1-(2,5-bis(trifluoromethyl)phenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Step 8-9, Example 1, using the (R)-1-(2,5-bis(trifluoromethyl)phenyl)ethanamine and the 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 639 [M+H]+.

reactant | (R)-1-(2,5-bis(trifluoromethyl)phenyl)ethanamine | FC(C1=C(C=C(C=C1)C(F)(F)F)[C@@H](C)N)(F)F | C10H9F6N
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | (R)-4′-((5-((1-(2,5-bis(trifluoromethyl)phenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | FC(C1=C(C=C(C=C1)C(F)(F)F)[C@@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C)(F)F | C35H28F6N2O3
